US06326372B1
Step 3: 1-[4-[4-(2-Keto-1-benzimidazolinyl)piperidin-1-yl]butylaminocarbonyl]-6-phenylpiperidin-2-one Hydrochloride
Sodium hydride in mineral oil (60mg of a 60% suspension, 1.50 mmol) was suspended in 3 mL of tetrahydrofuran. To this suspension was added a solution of 6-phenylpiperidin-2-one (134 mg, 0.765 mmol) in tetrahydrofuran (2 mL). The resulting solution was stirred at ambient temperature for 30 minutes, then transferred via syringe to a solution of chorotrimethylsilane (500 mL, 3.94 mmol) in tetrahydrofuran (3 mL) which had already been chilled to −78° C. The reaction mixture was stirred at −78° C. for 2 hours, and then evaporated to dryness. The resulting residue was dissolved in 2 mL of tetrahydrofuran and added to a 3 mL solution of 4-nitrophenylchloroformate (154 mg, 0.764 mmol) in tetrahydrofuran which had already been chilled to 0° C. The reaction mixture was stirred at 0° C. for 30 minutes and then at ambient temperature for 30 minutes. The mixture was evaporated to dryness, and half of the resulting residue (160 mg, 0.470 mmol) was dissolved in 5 mL of dichloromethane. To this solution was added 4-(2-keto-1-benzimidazolinyl)-piperidine butylamine (139 mg, 0.482 mmol) and triethylamine (139 mL, 0.997 mmol). The yellow reaction mixture was stirred at ambient temperature for 18 hours, and then evaporated to dryness. The resulting residue was purified by “flash” chromatography (98:2 dichloromethane:methanol). The product fractions were evaporated to an oil which was treated with HCl-saturated ethyl acetate, evaporated to dryness, and reconcentrated from diethyl ether twice to give the title compound as a solid.

reactant | Sodium hydride | [H-].[Na+]
reactant | 6-phenylpiperidin-2-one | 0.765 mmol, 134 mg | C1(=CC=CC=C1)C1CCCC(N1)=O | C11H13NO
reactant | chorotrimethylsilane | 3.94 mmol, 500 mL | Cl[Si](C)(C)C | C3H9ClSi
reactant | 4-nitrophenylchloroformate | 0.764 mmol, 154 mg | C1=CC(=CC=C1[N+](=O)[O-])[Cl-]C(=O)[O-]
reactant | 4-(2-keto-1-benzimidazolinyl)-piperidine butylamine | 0.482 mmol, 139 mg | O=C1NC2=C(N1C1CCN(CC1)CCCCN)C=CC=C2 | C16H24N4O
reactant | triethylamine | 0.997 mmol, 139 mL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 1-[4-[4-(2-Keto-1-benzimidazolinyl)piperidin-1-yl]butylaminocarbonyl]-6-phenylpiperidin-2-one Hydrochloride | Cl.O=C1NC2=C(N1C1CCN(CC1)CCCCNC(=O)N1C(CCCC1C1=CC=CC=C1)=O)C=CC=C2 | InChI=1S/C28H35N5O3.ClH/c34-26-14-8-13-24(21-9-2-1-3-10-21)33(26)27(35)29-17-6-7-18-31-19-15-22(16-20-31)32-25-12-5-4-11-23(25)30-28(32)36;/h1-5,9-12,22,24H,6-8,13-20H2,(H,29,35)(H,30,36);1H
